US05994356
(30) 1-(4-Methoxycarbonylmethyloxyphenyl)-4-[(piperidin-4-yl)methylamino]piperidine dihydrochloride
Prepared from 4-[(1-tert-butyloxycarbonylpiperidin-4-yl)methylamino]-1-(4-methoxycarbonylmethyloxyphenyl)piperidine and ethereal hydrochloric acid.

reactant | 4-[(1-tert-butyloxycarbonylpiperidin-4-yl)methylamino]-1-(4-methoxycarbonylmethyloxyphenyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1CCN(CC1)C1=CC=C(C=C1)OCC(=O)OC | C25H39N3O5
reactant | hydrochloric acid | Cl | ClH
product | 1-(4-Methoxycarbonylmethyloxyphenyl)-4-[(piperidin-4-yl)methylamino]piperidine dihydrochloride | Cl.Cl.COC(=O)COC1=CC=C(C=C1)N1CCC(CC1)NCC1CCNCC1 | InChI=1S/C20H31N3O3.2ClH/c1-25-20(24)15-26-19-4-2-18(3-5-19)23-12-8-17(9-13-23)22-14-16-6-10-21-11-7-16;;/h2-5,16-17,21-22H,6-15H2,1H3;2*1H
